US04628057
(1) (3RS)-2-Benzyloxycarbonyl-3-cyano-1,2,3,4-tetrahydro-β-carboline
(3RS)-2-Benzyloxycarbonyl-1,2,3,4-tetrahydro-β-carboline-3-carboxamide (1.05 g) is dissolved in pyridine (6 ml) and thereto is added dropwise POCl3 (0.37 ml) at -5° C. The mixture is stirred at the same temperature for 2 hours, and the reaction mixture is poured onto ice-water and extracted with ethyl acetate. The ethyl acetate layer is washed with 10% HCl and water and dried, and then the solvent is distilled off to give the title compound (0.81 g, 82%) as white powder.

reactant | (3RS)-2-Benzyloxycarbonyl-1,2,3,4-tetrahydro-β-carboline-3-carboxamide | 1.05 g | C(C1=CC=CC=C1)OC(=O)N1CC=2NC3=CC=CC=C3C2CC1C(=O)N | C20H19N3O3
reactant | POCl3 | 0.37 ml | O=P(Cl)(Cl)Cl | Cl3OP
solvent | pyridine | 6 ml | N1=CC=CC=C1 | C5H5N
product | (3RS)-2-Benzyloxycarbonyl-3-cyano-1,2,3,4-tetrahydro-β-carboline | 0.81 g, 82% | C(C1=CC=CC=C1)OC(=O)N1CC=2NC3=CC=CC=C3C2CC1C#N | C20H17N3O2
